// Copyright 2021 EnICS Labs, Bar-Ilan University.
// Licensed under the Apache License, Version 2.0, see LICENSE for details.
// SPDX-License-Identifier: Apache-2.0

// Cell name: pch_svt_mac
// View name: schematic
subckt pch_svt_mac D G S B
ends pch_svt_mac
// End of subcircuit definition

// Cell name: nch_svt_mac
// View name: schematic
subckt nch_svt_mac D G S B
ends nch_svt_mac
// End of subcircuit definition

// Cell name: CG_A
// View name: schematic
M0 (C_out C_in n20 VSS) nch_svt_mac l=6e-08 Multiplier=2 w=2e-07
M1 (C_out S n21 VSS) nch_svt_mac l=6e-08 Multiplier=2 w=2e-07
M2 (n20 S VSS VSS) nch_svt_mac l=6e-08 Multiplier=2 w=2e-07
M3 (n20 C VSS VSS) nch_svt_mac l=6e-08 Multiplier=2 w=2e-07
M4 (n21 C VSS VSS) nch_svt_mac l=6e-08 Multiplier=2 w=2e-07
M5 (n22 S VDD VDD) pch_svt_mac l=6e-08 Multiplier=1 w=2e-07
M6 (n22 C VDD VDD) pch_svt_mac l=6e-08 Multiplier=1 w=2e-07
M7 (n23 C VDD VDD) pch_svt_mac l=6e-08 Multiplier=1 w=2e-07
M8 (C_out C_in n22 VDD) pch_svt_mac l=6e-08 Multiplier=1 w=2e-07
M9 (C_out S n23 VDD) pch_svt_mac l=6e-08 Multiplier=1 w=2e-07
M10 (C_out CLK VDD VDD) pch_svt_mac l=6e-08 Multiplier=1 w=2e-07
