// Copyright 2021 EnICS Labs, Bar-Ilan University.
// Licensed under the Apache License, Version 2.0, see LICENSE for details.
// SPDX-License-Identifier: Apache-2.0

simulator lang = spectre

// Cell name: AND4_DML_BtoA
// View name: schematic
subckt AND4_DML_BtoA IN_0 IN_1 IN_2 IN_3 CLK CLK_b OUT VDD VSS
ends AND4_DML_BtoA
// End of subcircuit definition

// Cell name: bit4_RCA
// View name: schematic
subckt bit4_RCA S0 C0 P0 O0 S1 C1 P1 O1 S2 C2 P2 O2 S3 C3 P3 O3 C_in CLK CLK_b C_out VDD VSS
ends bit4_RCA
// End of subcircuit definition

// Cell name: MUX2_DML_BtoA
// View name: schematic
subckt MUX2_DML_BtoA SEL IN_0 IN_1 CLK CLK_b OUT VDD VSS
ends MUX2_DML_BtoA
// End of subcircuit definition

// Cell name: carry_skip_adder
// View name: schematic
AND4_DML_BtoA (net_P0 net_P1 net_P2 net_P3 CLK CLK_b net_SEL VDD VSS) AND4_DML_BtoA 
MUX2_DML_BtoA (net_SEL net_C_out C_in CLK CLK_b C_out VDD VSS) MUX2_DML_BtoA 
bit4_RCA (S0 C0 net_P0 O0 S1 C1 net_P1 O1 S2 C2 net_P2 O2 S3 C3 net_P3 O3 C_in CLK CLK_b net_C_out VDD VSS) bit4_RCA 
