// Copyright 2021 EnICS Labs, Bar-Ilan University.
// Licensed under the Apache License, Version 2.0, see LICENSE for details.
// SPDX-License-Identifier: Apache-2.0

simulator lang = spectre

subckt subckt_1 (p1 n1 p2 n2)
    parameters zodd=50 zeven=50 veven=1 vodd=1 len=0
    comp1 (p1 n1 p2 n2) comp1 z0=zodd vel=vodd len=len
    comp2 (p1 0 e1 c1) comp2 t1=2 t2=1

    subckt comp2 p1 n1 p2 n2
    ends comp2
ends subckt_1

subckt_1 A B C D subckt_1

comp1 A B E F comp1

subckt comp1 p1 n1 p2 n2
ends comp1

// model
model npn bjt type=npn bf=80 rb=100 vaf=50 cjs=2pf tf=0.3ns tr=6ns cje=3pf cjc=2pf

// Analyses
OpPoint dc
Sparams sp start=100M stop=100G dec=100